2154-04-02 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2154-4-1**] 03:00 PM
   [**2154-4-2**]
   Cr improved to 1.7
   -ve 1L.
   UOP 90cc/hr
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Beta-Blockers (Beta-Adrenergic Blocking Agts)
   Very sensitive
   Last dose of Antibiotics:
   Cefazolin - [**2154-4-1**] 11:09 PM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-4-2**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 68 (68 - 81) bpm
   BP: 91/45(56) {82/43(56) - 109/61(72)} mmHg
   RR: 12 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  1,124 mL
                                                                    111 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    136 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                  1,455 mL
   Urine:
                                                                    790 mL
                                                                  1,455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -316 mL
                                                                 -1,344 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP elevated to ear, no LAD
   Lungs: Clear to ausculatation bilaterally. No w/r/c.
   CV: Irregular rhythm. Normal rate. normal S1 + S2, loud systolic
   murmur at LLSB.
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, 2+ peripheral edema to the knee
   bilterally. Brusing on left ankle with tenderness to palpation. Left
   lower extremity cool to touch
   Labs / Radiology
   123 K/uL
   10.0 g/dL
   98 mg/dL
   1.7 mg/dL
   27 mEq/L
   4.8 mEq/L
   57 mg/dL
   89 mEq/L
   122 mEq/L
   30.8 %
   4.7 K/uL
        [image002.jpg]
                             [**2154-4-1**]  05:31 PM
                             [**2154-4-2**]  04:07 AM
   WBC
   4.7
   Hct
   30.8
   Plt
   123
   Cr
   2.0
   1.7
   Glucose
   118
   98
   Other labs: PT / PTT / INR:24.0/39.6/2.3, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 CELLULITIS
   Assessment and Plan:
   .
   #Acute exacerbation of stystolic heart failure: admitted with evidence
   volume overload worsened in setting possible dieterary salt load, with
   pt compliant with lasix/aldactone therapy and fluid restriction. Unable
   on floor to diuresis with lasix bolus/drip given persistent
   asymptomatic hypotension.
   lasix drip o/n, UOP was 90cc/hr net negative >1L. BP
s 90s systolic,
   where patient lives, asymptomatic
   Continue lasix drip, if unable to meet goal diuresis, add milrinone to
   maintain BP while uptitrating diuretic. If hypotension with milrinone
   can start low dose phenylephrine. Lisinopril restarted on admission,
   down titrated and dc'd today due to hypotension, 5mg given in unit. Cr
   improved from 2.2 to 1.7
   -continue lasix drip 5-15mg/kg/hr with [**Hospital1 **] lytes.
   -daily weights, strict I/O goal neg 1L/day.
   -fluid restrict <2 L/day
   Hold  holding BB given hx severe asymptomatic bradycardia
   -Continue linsinopril 5mg daily if  Cr/K tolerates for afterload
   reduction.
   -pt does not desire ICD.
   .
   # LLE cellulitis. Being followed by ortho. On ancef (started [**3-31**]) and
   elevation.
   continue ancef
   Can weight bear.
   f/u ortho recs
   .
   # Acute on chronic renal failure: The patient presented with a
   creatinine of 2.2, higher than his baseline of 1.2. Currently at Cr of
   2.2. Likely ATN in the setting of lasix use and/or pre-renal if low EF
   (forward flow).
   -f/u urine lytes
   -strict I&Os, avoid nephrotoxins
   -trend Cr
   .
   # Transaminitis on admission likely due to hepatic congestion, no RUQ
   tenderness or epigastric discomfort. Trending down from ALT/AST 84/138
   to 75/115.
   -Continue to trend LFTs
   # Hyperkalemia: Might be due to lisinopril, renal failure. K+ 4.8
   today.
   -Continue lasix gtt
   -[**Hospital1 **] lytes
   .
   # Transaminitis: likely due to hepatic congestion, no RUQ tenderness or
   epigastric discomfort.
   -Continue to trend LFTs
   .
   ICU Care
   Nutrition: low sodium, heart healthy diet
   Glycemic Control:
   Lines:
   PICC Line - [**2154-4-1**] 03:00 PM
   20 Gauge - [**2154-4-1**] 03:28 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient
   Code status: Full code
   Disposition:ICU for now.
   ICU Care
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   Per housestaff
   nothing to add
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Being managed with IV lasix drip for an exacerbation of acute systolic
   congestive heart failure. The goal for today is to diurese one liter in
   addition
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **],MD
   on:[**2154-4-2**] 09:33 ------

2154-04-03 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2L in the evening
   - PM lytes -> stable hyponatremia
   - did not start milrinone
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Beta-Blockers (Beta-Adrenergic Blocking Agts)
   Very sensitive
   Last dose of Antibiotics:
   Cefazolin - [**2154-4-2**] 10:16 PM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-4-3**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 82 (69 - 87) bpm
   BP: 98/46(59) {75/37(47) - 100/66(72)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,480 mL
                                                                    111 mL
   PO:
                                                                  1,020 mL
             TF:
   IVF:
                                                                    460 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  3,380 mL
                                                                  1,675 mL
   Urine:
                                                                  3,380 mL
                                                                  1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,900 mL
                                                                 -1,564 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, no JVD, no LAD
   Lungs: Clear to ausculatation bilaterally. No w/r/c.
   CV: RRR (in fib y/d) normal S1 + S2, loud systolic
   murmur at LLSB radiates to carotids
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 1+ pulses. Stable,, 1+ peripheral edema to
   the upper shin  bilaterally, improved. Warm, tender erythematous left
   shin at site of presumed cellulitis, stable.. Left lower extremity warm
   to touch (cool yesterday)
   Labs / Radiology
   130 K/uL
   10.2 g/dL
   96 mg/dL
   1.6 mg/dL
   29 mEq/L
   4.3 mEq/L
   51 mg/dL
   89 mEq/L
   124 mEq/L
   30.9 %
   4.3 K/uL
        [image002.jpg]
   HCT stable . Na 124 from 120. Cr 1.6 from 2.2 on admission. ALT/AST
   improved to 48/92  INR 2.3  Ca/Mg/Phos: 8.4/2.1/3.6
                             [**2154-4-1**]  05:31 PM
                             [**2154-4-2**]  04:07 AM
                             [**2154-4-3**]  04:15 AM
   WBC
   4.7
   4.3
   Hct
   30.8
   30.9
   Plt
   123
   130
   Cr
   2.0
   1.7
   1.6
   Glucose
   118
   98
   96
   Other labs: PT / PTT / INR:24.1/39.7/2.3, ALT / AST:48/92, Alk Phos / T
   Bili:97/1.5, Differential-Neuts:74.9 %, Lymph:13.5 %, Mono:9.0 %,
   Eos:2.2 %, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 GAIT, IMPAIRED
 TRANSFERS, IMPAIRED
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 CELLULITIS
   Assessment and Plan:
   .
   #Acute exacerbation of stystolic heart failure: admitted with evidence
   volume overload worsened in setting possible dieterary salt load, with
   pt compliant with lasix/aldactone therapy and fluid restriction. Unable
   on floor to diuresis with lasix bolus/drip given persistent
   asymptomatic hypotension.
   lasix drip o/n, UOP was 90cc/hr net negative >1L. BP
s 90s systolic,
   where patient lives, asymptomatic
   Continue lasix drip, if unable to meet goal diuresis, add milrinone to
   maintain BP while uptitrating diuretic. If hypotension with milrinone
   can start low dose phenylephrine. Lisinopril restarted on admission,
   down titrated and dc'd today due to hypotension, 5mg given in unit. Cr
   improved from 2.2 to 1.7
   -continue lasix drip 5-15mg/kg/hr with [**Hospital1 **] lytes.
   -daily weights, strict I/O goal neg 1L/day.
   -fluid restrict <2 L/day
   Hold  holding BB given hx severe asymptomatic bradycardia
   -Continue linsinopril 5mg daily if  Cr/K tolerates for afterload
   reduction.
   -pt does not desire ICD.
   .
   # LLE cellulitis. Being followed by ortho. On ancef (started [**3-31**]) and
   elevation.
   continue ancef
   Can weight bear.
   f/u ortho recs
   .
   # Acute on chronic renal failure: The patient presented with a
   creatinine of 2.2, higher than his baseline of 1.2. Currently at Cr of
   2.2. Likely ATN in the setting of lasix use and/or pre-renal if low EF
   (forward flow).
   -f/u urine lytes
   -strict I&Os, avoid nephrotoxins
   -trend Cr
   .
   # Transaminitis on admission likely due to hepatic congestion, no RUQ
   tenderness or epigastric discomfort. Trending down from ALT/AST 84/138
   to 75/115.
   -Continue to trend LFTs
   # Hyperkalemia: Might be due to lisinopril, renal failure. K+ 4.8
   today.
   -Continue lasix gtt
   -[**Hospital1 **] lytes
   .
   # Transaminitis: likely due to hepatic congestion, no RUQ tenderness or
   epigastric discomfort.
   -Continue to trend LFTs
   .
   ICU Care
   Nutrition: low sodium, heart healthy diet
   Glycemic Control:
   Lines:
   PICC Line - [**2154-4-1**] 03:00 PM
   20 Gauge - [**2154-4-1**] 03:28 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient
   Code status: Full code
   Disposition:ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-4-1**] 03:00 PM
   20 Gauge - [**2154-4-1**] 03:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-04-05 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight Events:
   - 3pm lytes-K+/Mg repleted.
   - refusing tylenol, changed to prn.
   - continue lasix gtt
   - called out, but no beds on [**Wardname 3753**]
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Confusion/Delir
   Beta-Blockers (Beta-Adrenergic Blocking Agts)
   Very sensitive
   Last dose of Antibiotics:
   Cefazolin - [**2154-4-4**] 10:16 PM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-4-5**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**56**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 84 (78 - 91) bpm
   BP: 96/48(58) {79/40(49) - 110/56(64)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.5 kg (admission): 77.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,503 mL
                                                                    184 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                    723 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                    925 mL
   Urine:
                                                                  3,740 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,237 mL
                                                                   -741 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, no JVD, no LAD
   Lungs: Clear to ausculatation bilaterally. No w/r/c.
   CV: RRR (in fib y/d) normal S1 + S2, loud systolic
   murmur at LLSB radiates to carotids
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 1+ pulses. Stable,, 1+ peripheral edema to
   the upper shin  bilaterally, improved. Warm, tender erythematous left
   shin at site of presumed cellulitis, stable.. Left lower extremity warm
   to touch (cool yesterday)
   Labs / Radiology
   87 K/uL
   9.5 g/dL
   93 mg/dL
   1.4 mg/dL
   27 mEq/L
   4.0 mEq/L
   43 mg/dL
   91 mEq/L
   125 mEq/L
   28.4 %
   3.7 K/uL
        [image002.jpg]
                             [**2154-4-1**]  05:31 PM
                             [**2154-4-2**]  04:07 AM
                             [**2154-4-3**]  04:15 AM
                             [**2154-4-3**]  04:52 PM
                             [**2154-4-4**]  04:22 AM
                             [**2154-4-4**]  05:49 PM
                             [**2154-4-5**]  04:30 AM
   WBC
   4.7
   4.3
   4.3
   3.7
   Hct
   30.8
   30.9
   32.6
   28.4
   Plt
   123
   130
   109
   87
   Cr
   2.0
   1.7
   1.6
   1.6
   1.6
   1.4
   1.4
   Glucose
   118
   98
   96
   90
   93
   Other labs: PT / PTT / INR:26.4/39.0/2.6, ALT / AST:48/92, Alk Phos / T
   Bili:97/1.5, Differential-Neuts:74.9 %, Lymph:13.5 %, Mono:9.0 %,
   Eos:2.2 %, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69 yo m with hx of sCHF, MVR, and Tricuspid ring, PAF, admitted to [**Hospital1 2259**]
   with elevated INR and acute exacerbation of systolic heart failure with
   lasix driven diuresis limited by persistent hypotension, transferred to
   CCU for ionotrope assisted diuresis.
   #Acute exacerbation of stystolic heart failure: Admitted with evidence
   volume overload worsened in setting possible dieterary salt load, with
   pt compliant with lasix/aldactone therapy and fluid restriction. Unable
   on floor to diuresis with lasix bolus/drip given persistent
   asymptomatic hypotension. Pt remains on lasix gtt, with I/O greater
   than 2L negative yesterday.
   - continue diuresis with lasix gtt; goal to be at least 1 L negative
   each day
   - close monitoring of I/O
s and daily weights
   - holding lisinopril currently
   - continue fluid restriction <2L/day
   - no BB given asymptomatic bradycardia, pt does not desire ICD.
   .
   # LLE cellulitis. Ortho signed off. On ancef (started [**3-31**]) and
   elevation.
   continue ancef (today = day 6)
   - Can weight bear.
   - continue to monitor
   - continue PT
   .
   # Acute on chronic renal failure: The patient presented with a
   creatinine of 2.2, higher than his baseline of 1.2. Cr improved to 1.4
   today. Likely pre-renal due to poor forward flow.
   - trend Cr
   .
   # Transaminitis on admission likely due to hepatic congestion, no RUQ
   tenderness or epigastric discomfort. Improving.
   .
   # Afib/MVR with bioprosthetic valve/ ring.
   - on Coumadin with INR goal of [**2-27**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-4-1**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor